US08975416B2
4-(2-(4-Methoxyphenyl)-1H-benzo[d]imidazol-6-yl)benzene-1,2-diamine (Intermediate 10)
Prepared by Method 2, using a 1:1 ratio of biphenyl-3,3′,4,4′-tetraamine to 4-methoxybenzaldehyde, and heating to 180° C. for 10 min.

reactant | biphenyl-3,3′,4,4′-tetraamine | C1(=CC(=C(C=C1)N)N)C1=CC(=C(C=C1)N)N | C12H14N4
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
product | 4-(2-(4-Methoxyphenyl)-1H-benzo[d]imidazol-6-yl)benzene-1,2-diamine | COC1=CC=C(C=C1)C1=NC2=C(N1)C=C(C=C2)C=2C=C(C(=CC2)N)N | C20H18N4O
